US07405300B2
To a mixture of 7-azaindole (550 mg, 4.66 mmol), copper iodide (7.4 mg, 0.038 mmol) and potassium phosphate (1.74 g, 8.18 mmol) under a N2 atmosphere is added racemic trans-1,2-diaminocyclohexane (0.046 mL, 0.38 mmol), 3-bromo-pyridine (0.376 mL, 3.9 mmol) followed by anhydrous dioxane (5 mL). The resulting suspension is heated in an oil bath at 110° C. with magnetic stirring for 38 hours. Further copper iodide (65 mg, 0.341 mmol) is added and the resulting mixture heated in an oil bath at 110° C. for 57 hours to give a brown sludgy mixture. Filtration through a short pad of silica gel, washing the cake well with ethyl acetate and evaporation of the filtrate gives the crude product as a dark brown oil. The residue is purified by flash chromatography on a 10-gram silica gel cartridge by elution with heptane:ethyl acetate: dichloromethane (3:1:1, increasing to 32:13:5 and 24:16:10). Fractions containing the product are combined and evaporated to give 818 mg of 1-pyridin-3-yl-7-azaindole as a light brown oil (108% yield). MS: m/e 196 (M+H). 1H NMR (300 MHz, CDCl3): 9.01 (1H, br.s), 8.60 (1H, br.s), 8.39 (1H, dd), 8.30 (1H, d), 8.00 (1H, dd), 7.55 (1H, d), 7.49 (1H, dd), 7.18 (1H, dd), 6.70 (1H, d). Step 2: 3,3-Dibromo-1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one: A solution of 1-pyridin-3-yl-7-azaindole (crude, 800 mg, 4.10 mmol) in tert-butanol (40 mL) under N2 atmosphere is treated with pyridinium bromide perbromide (4.36 g, 13.6 mmol) portion wise over 2.75 hours, with occasional gentle heating on a hot plate to prevent freezing of the reaction mixture. Part of the way through the addition the mixture crashes out to give a thick orange suspension. The reaction is stirred for an additional 3 hours. The reaction mixture is evaporated and the residue is partitioned between water and ethyl acetate. The ethyl acetate layer is separated and washed with 2 further portions of water and a portion of saturated brine, and is dried over magnesium sulfate. Filtering and evaporation gives a crunchy brown solid. The crude product is triturated with ether, and the resulting solid separated, and dried under vacuum to give 2.12 g of crude 3,3-dibromo-1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (140% yield). MS: m/e 368/370/372 (M+H). 1H NMR (300 MHz, DMSO-d6): 9.03 (1H, br.s), 8.81 (1H, m), 8.40 (1H, m), 8.31 (1H, d), 8.24 (1H, d), 7.89 (1H, dd), 7.41 (1H, dd). Step 3: 1-Pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one: 3,3-dibromo-1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (crude, 2.12 g) and 10% by weight palladium on activated charcoal (750 mg) are suspended in absolute ethanol (85 mL). This mixture is allowed to stir under a hydrogen atmosphere at atmospheric pressure for 19 hours. The reaction mixture is filtered through a pad of hiflo, washing the cake well with copious amounts of boiling ethanol. Concentration of the filtrate gives crude 1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one as an sticky brown solid. Saturated aqueous sodium hydrogen carbonate (30 mL) is added and the mixture extracted with 8 portions of dichloromethane. The combined extracts are dried over magnesium sulfate, filtered and evaporated to give a brown residue. The crude material is purified by flash chromatography on a 5-gram silica gel cartridge by elution with dichloromethane:methanol (99:1). Fractions containing the product are combined and evaporated to give 380 mg of 1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (47% yield starting from 3-bromopyridine). MS: m/e 212 (M+H). 1H NMR (300 MHz, CDCl3): 8.90 (1H, d), 8.62 (1H, dd), 8.19 (1H, d), 7.96 (1H, dt), 7.61 (1H, d), 7.47 (1H, dd), 7.08 (1H, dd), 3.78 (2H, s). Step 4: 2-Chloro-1-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde: An ice-acetone cooled solution of anhydrous dimethylformamide (0.71 mL, 9.2 mmol) and anhydrous dichloromethane (2 mL) under a N2 atmosphere is treated drop-wise with phosphorus oxychloride (0.93 mL, 10 mmol). The resulting yellowish mixture is continued to stir for 40 mins to give a cloudy mixture. A solution of 1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (370 mg, 1.75 mmol) and pyridine (0.30 mL, 3.7 mmol) in dichloromethane (1 mL) is added drop-wise over 20 minutes to form a red mixture. The reaction is allowed to warm slowly to room temperature over 1 hour, and stirred at room temperature for 24 hours. The red reaction mixture is concentrated, and the residue is treated with phosphorus oxychloride (10 mL) and the mixture heated in an oil bath at 110° C. for 3 hours. After concentration of the red mixture, the residue is treated with ice water, and treated with saturated aqueous sodium hydrogen carbonate solution until the effervescence ceases. The mixture is extracted with 5 portions of dichloromethane, the combined extracts are dried over magnesium sulfate, filtered and evaporated to leave a brown solid. The residue is purified by flash chromatography on a 10-gram silica gel cartridge by elution with dichloromethane. Fractions containing the product are combined and the solvent evaporated, and the residue is purified by flash chromatography on a 10-gram silica gel cartridge by elution with dichloromethane. After trituration with heptane 36 mg of 2-chloro-1-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde is obtained as a fluffy cream powder. A further 11 mg of product is obtained by purifying the heptane supernatant by flash chromatography on a 5-gram silica gel cartridge by elution with dichloromethane:methanol (99:1) increasing to ethyl acetate. Total yield, 47 mg, 10% yield. MS: m/e 258/260 (M+H).

reactant | 7-azaindole | 4.66 mmol, 550 mg | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | potassium phosphate | 8.18 mmol, 1.74 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-bromo-pyridine | 3.9 mmol, 0.376 mL | BrC=1C=NC=CC1 | C5H4BrN
catalyst | copper iodide | 0.038 mmol, 7.4 mg | [Cu](I)I
catalyst | copper iodide | 0.341 mmol, 65 mg | [Cu](I)I
catalyst | racemic trans-1,2-diaminocyclohexane | 0.38 mmol, 0.046 mL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-pyridin-3-yl-7-azaindole | 818 mg, 108% yield | N1=CC(=CC=C1)N1C=CC2=CC=CN=C12 | C12H9N3
